US06103725
A mixture of 1-(4-bromophenyl)piperazine (0.018 mol) and ethyl (2-chloroethyl)-carbamate (0.036 mol) was stirred for 2 hours at 130° C. Triethylamine (3 ml) was added and the mixture was stirred for 15 minutes at 130° C. The reaction mixture was cooled to room temperature, CH2Cl2 was added and the resulting mixture was washed with water. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent was evaporated, yielding 4.3 g (67.2%) of ethyl [2-[4-(4-bromophenyl)-1-piperazinyl]-ethyl]carbamate (interm. 1).

reactant | 1-(4-bromophenyl)piperazine | 0.018 mol | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | ethyl (2-chloroethyl)-carbamate | 0.036 mol | ClCCNC(OCC)=O | C5H10ClNO2
reactant | Triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl [2-[4-(4-bromophenyl)-1-piperazinyl]-ethyl]carbamate | 4.3 g, 67.2% | BrC1=CC=C(C=C1)N1CCN(CC1)CCNC(OCC)=O | C15H22BrN3O2
